US05317023
1,1-Dimethylethyl [2-[3-bromo-5-[(5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl]-2-benzofuranyl]phenyl]carbamate
Sodium hydride (0.2 g) was added in portions over 5 min to a mixture of 5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridine (described in EP-A-0400974) (1.0 g) in dry DMF (25 ml) and stirred at room temperature under nitrogen. After 30 min the solution was cooled to 0°-5° C. and 1,1-dimethylethyl [2-[3-bromo-5-(bromomethyl)-2-benzofuranyl]phenyl]carbamate (described in European Patent Specification No. 0 434 249 A, published 26th Jun. 1991) (3.45 g) was added portionwise over 5 min. The mixture was allowed to warm to room temperature and was stirred for 18 h. Water (1 ml) was added and the mixture concentrated in vacuo. Dichloromethane (50 ml) was added and the mixture washed with water (100 ml), dried and concentrated in vacuo. The residue was purified by flash column chromatogrpahy eluting with System D (10:1) to give the title compound (2.0 g) as a colourless foam.

reactant | Sodium hydride | 0.2 g | [H-].[Na+]
reactant | 5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridine | 1.0 g | CC1=CC(=C2C(=N1)NC(=N2)CC)C | C10H13N3
reactant | 1,1-dimethylethyl [2-[3-bromo-5-(bromomethyl)-2-benzofuranyl]phenyl]carbamate | BrC1=C(OC2=C1C=C(C=C2)CBr)C2=C(C=CC=C2)NC(OC(C)(C)C)=O | C20H19Br2NO3
reactant | Water | 1 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl [2-[3-bromo-5-[(5,7-dimethyl-2-ethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl]-2-benzofuranyl]phenyl]carbamate | 2.0 g | BrC1=C(OC2=C1C=C(C=C2)CN2C(=NC=1C2=NC(=CC1C)C)CC)C1=C(C=CC=C1)NC(OC(C)(C)C)=O | C30H31BrN4O3
